US07514566B2
tert-butyl (2S,3S)-1-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate
To a stirred slurry of cuprous iodide (7.9 g, 42 mmol) in 150 mL ether at 0° C. was added methyllithium (1.6 M solution in diethyl ether (52 mL, 83 mmol)). The mixture was stirred at this temperature for 20 minutes. A solution of (2R,3R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-3-(4-(trifluoromethyl)phenyl)aziridine-1-carboxylate (6.00 g, 14 mmol) in 150 mL ether was added via cannula to the lithium dimethylcuprate solution. The mixture was stirred at 0° C. and monitored by TLC. When no starting material could be detected (ca. 7 hours), 250 mL of an 8:1 mixture of saturated aqueous ammonia chloride and ammonia hydroxide (28-30% in water) was added to the reaction. The resulting reaction mixture was extracted with diethyl ether (2×300 mL). The combined organic layers were washed twice with brine and dried over sodium sulfate. The crude product was then chromatographed eluting with 3% EtOAc in hexane. After removing the solvent, the desired product was obtained as a colorless oil (2.0 g, yield=32%). 1H NMR (400 MHz, CD3OD) δ ppm 0.09 (s, 6H) 0.90-0.96 (m, 9H) 1.25-1.33 (m, 12H) 3.00-3.11 (m, 1H) 3.68-3.80 (m, 3H) 7.43 (d, J=8.02 Hz, 2H) 7.56 (d, J=8.02 Hz, 2H).

reactant | methyllithium | 83 mmol, 1.6 M, 52 mL | C[Li]
reactant | (2R,3R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-3-(4-(trifluoromethyl)phenyl)aziridine-1-carboxylate | 14 mmol, 6.00 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1N([C@@H]1C1=CC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C | C21H32F3NO3Si
reactant | ammonia chloride | [Cl-].N
reactant | ammonia hydroxide | [OH-].N
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ether | 150 mL | CCOCC | C4H10O
product | tert-butyl (2S,3S)-1-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C22H36F3NO3Si
